US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.083 g, 0.299 mmol) was reacted with N-(2-azidoethyl)-2-iodobenzamide (0.095 g, 0.299 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(2-iodobenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.74 (d, 2H), δ 7.57 (t, 1H), δ 7.36 (s, 1H), δ 7.22 (s, 2H0, δ 6.97 (m, 1H0, δ 6.39 (s, 1H), δ 5.97 (s, 2H), δ 4.48 (t, 2H0, δ 3.85 (m, 2H0, δ 2.44 (t, 2H), δ 2.18 (t, 2H), δ 1.45 (m, 13H, δ 1.18 (m, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 170.3, 150.4, 149.5, 148.2, 141.8, 139.9, 138.7, 131.3, 128.4, 128.3, 122.3, 106.5, 92.8, 84.9, 49.2, 40.5, 29.2, 28.9, 28.3, 28.2, 28.0, 25.5 ppm; HRMS (ESI) calcd for C24H32IN7O3 (M+) 593.1611. found 593.1603, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-2-iodobenzamide hydrochloride (0.125 g, 79% yield). 1H NMR (400 MHz, CD3OD) δ 8.35 (s, 1H), δ 7.88*d, 1H), δ 7.45 (t, 1H), δ 7.34 (d, 1H), δ 7.15 (t, 1H), δ 6.47 (s, 1H), δ 4.78 (s, 2H), δ 3.99 (s, 2H), δ 2.83 (s, 2H), δ 2.44 (t, 2H), δ 1.76 (s, 2H), δ 1.64 (s, 2H), δ 1.29 (s, 2H) ppm; 13C NMR (75 MHz, CD3OD) δ 171.6, 159.2, 147.3, 142.1, 139.8, 131.2, 128.2, 127.7, 124.4, 92.1, 52.2, 40.8, 39.4, 31.2, 28.3, 28.1, 27.7, 24.1, 20.9, 15.9, 10.7 ppm; HRMS (ESI) calcd for C19H24IN7O (M+) 493.1087. found 493.1085.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.299 mmol, 0.083 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-2-iodobenzamide | 0.299 mmol, 0.095 g | N(=[N+]=[N-])CCNC(C1=C(C=CC=C1)I)=O | C9H9IN4O
product | tert-butyl 2-amino-4-(5-(1-(2-(2-iodobenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(C1=C(C=CC=C1)I)=O)C(=O)OC(C)(C)C | C24H32IN7O3
